US07964733B2
3-(bromomethyl)-2-phenyl-N-[(1S)-1-phenylpropyl]quinoline-4-carboxamide (8)
3-methyl-2-phenyl-N-[(1S)-1-phenylpropyl]quinoline-4-carboxamide (9.8 g, 26 mmol) was dissolved in 200 mL hot CCl4 (with stirring) under N2 and heated at a gentle reflux. NBS (6.9 g, 39 mmol) was added and solution irradiated with long wave UV light for 0.5 h. Additional NBS (1.9 g, 11 mmol) was added and solution irradiated and refluxed for another 0.5 h. It was then allowed to cool and concentrated under reduced pressure to remove most of the CCl4. The residue was then dissolved in CH2Cl2 and washed with aqueous NaHCO3 containing a few crystals of sodium thiosulfate. The organic layer was then dried over Na2SO4, filtered, and concentrated under reduced pressure. The resulting material was then purified using silica gel chromatography (0-15% EtOAc/CH2Cl2) to give 2.9 g of desired product (24%) as a yellow-white solid. 1H NMR (300 MHz, CDCl3, 52° C.) δ 8.11 (d, J=8.1 Hz, 1H), 7.81-7.67 (m, 2H), 7.67-7.58 (m, 2H), 7.55-7.26 (m, 9H), 6.39 (d, J=7.8 Hz, 1H), 5.28 (q, J=7.6 Hz, 1H), 4.74-4.50 (m, 2H), 2.23-1.91 (m, 2H), 1.03 (t, J=7.4 Hz, 3H); LCMS: m/z 459 (MH+).

reactant | 3-methyl-2-phenyl-N-[(1S)-1-phenylpropyl]quinoline-4-carboxamide | 26 mmol, 9.8 g | CC=1C(=NC2=CC=CC=C2C1C(=O)N[C@@H](CC)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24N2O
reactant | NBS | 39 mmol, 6.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NBS | 11 mmol, 1.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(bromomethyl)-2-phenyl-N-[(1S)-1-phenylpropyl]quinoline-4-carboxamide | 2.9 g, 24% | BrCC=1C(=NC2=CC=CC=C2C1C(=O)N[C@@H](CC)C1=CC=CC=C1)C1=CC=CC=C1 | C26H23BrN2O
